US07919519B2
A solution of 12.3 g KOH in H2O (15 mL) was mixed with ethylene glycol (8 mL). 6-benzylbenzo[d]thiazol-2-amine (3.00 g, 12.5 mmol) was added to the mixture under N2 atmosphere. The mixture was stirred at 135° C. for 6 h, added to a 100 mL volume of ice and acidified to pH 6 using 5M aqueous HCl. The resulting suspension was extracted 2× with DCM. The organic layers were washed 1× with brine, dried over MgSO4, and evaporated to give beige solids (1.81 g, used without further purification). A solution of the crude material (0.695 g, 3.23 mmol) in THF (5 mL) was added to a mixture of 2-fluoro-4-formylbenzoyl chloride (0.55 g) in THF (5 mL) and Hunig's base (0.844 mL, 4.84 mmol) and stirred for 17 h at 24° C. The mixture was diluted with EtOAc, washed 1× with saturated aqueous NaHCO3, 1× with brine, dried over MgSO4 and evaporated to give a red foam (0.916 g, used for the next step). The crude material was treated with EtOH (16 mL), water (2 mL), and concentrated aqueous HCl (8 mL) followed by SnCl2 (1.67 g, 8798 μmol) and heated to reflux for 6 h (heterogeneous). The mixture was cooled to 0° C., basified with 10M aqueous NaOH, and partitioned between water and DCM. The aqueous layer was extracted with DCM (3×) and the combined organic layers were dried over MgSO4 and evaporated. Purification by flash chromatography (hexanes/EtOAc=5:1) gave 4-(6-Benzylbenzo[d]thiazol-2-yl)-3-fluorobenzaldehyde as a yellow solid. 1H NMR (400 MHz, CDCl3) δ ppm 10.06 (s, 1H), 8.67 (t, J=7.0 Hz, 1H), 8.09 (d, J=8.4 Hz, 1H), 7.83 (d, J=8.0 Hz, 1H), 7.76-7.73 (m, 2H), 7.43-7.40 (m, 1H), 7.33-7.31 (m, 2H), 7.26-7.23 (m, 3H), 4.16 (s, 2H). MS (ESI) m/z: Calculated: 347.4; Observed: 348.1 (M++1).

reactant | KOH | 12.3 g | [OH-].[K+]
reactant | 6-benzylbenzo[d]thiazol-2-amine | 12.5 mmol, 3.00 g | C(C1=CC=CC=C1)C1=CC2=C(N=C(S2)N)C=C1 | C14H12N2S
reactant | HCl | 5M | Cl | ClH
reactant | 2-fluoro-4-formylbenzoyl chloride | 0.55 g | FC1=C(C(=O)Cl)C=CC(=C1)C=O | C8H4ClFO2
reactant | Hunig's base | 4.84 mmol, 0.844 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 8 mL | Cl | ClH
reactant | SnCl2 | 8798 μmol, 1.67 g | Cl[Sn]Cl
reactant | NaOH | 10M | [OH-].[Na+]
solvent | H2O | 15 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 2 mL | O | H2O
solvent | EtOH | 16 mL | CCO | C2H6O
solvent | ethylene glycol | 8 mL | C(CO)O | C2H6O2
product | 4-(6-Benzylbenzo[d]thiazol-2-yl)-3-fluorobenzaldehyde | C(C1=CC=CC=C1)C1=CC2=C(N=C(S2)C2=C(C=C(C=O)C=C2)F)C=C1 | C21H14FNOS
